US04898874
3-(4-Chlorophenyl)-2,1-benzisoxazol-7-acetonitrile
A solution of 11.5 g (0.036 mole) of crude 3-(4-chlorophenyl)-7-(bromomethyl)-2,1-benzisoxazole, 9.8 g (0.15 mole) of potassium cyanide, 150 ml of dioxane and 75 ml of water was heated at reflux under a nitrogen atmosphere for 2.5 hr. The solution was cooled and poured into 400 ml of methylene chloride. The layers were separated and the organic layer was washed with four 200 ml portions of water, dried over sodium sulfate, and concentrated to give a solid as residue. The solid was recrystallized (charcoal) twice from ethyl acetate to yield 5.8 g (61%) of crystals, m.p. 165°-169° C.

reactant | 3-(4-chlorophenyl)-7-(bromomethyl)-2,1-benzisoxazole | 0.036 mole, 11.5 g | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2CBr | C14H9BrClNO
reactant | potassium cyanide | 0.15 mole, 9.8 g | [C-]#N.[K+]
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | water | 75 ml | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Chlorophenyl)-2,1-benzisoxazol-7-acetonitrile | 5.8 g, 61% | ClC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2CC#N | C15H9ClN2O
